US08426604B2
5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[(5-methoxymethyl-pyrrolidin-3-yl)-methyl-amino]-thiazol-4-one was prepared from 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazolidin-4-one and (5-Methoxymethyl-pyrrolidin-3-yl)-methyl-amine following General Procedure C.

reactant | 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SCC)=O)C=C1)C(F)(F)F | C21H17ClF3N3OS2
reactant | (5-Methoxymethyl-pyrrolidin-3-yl)-methyl-amine | COCC1CC(CN1)NC | C7H16N2O
product | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[(5-methoxymethyl-pyrrolidin-3-yl)-methyl-amino]-thiazol-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(C)C2CNC(C2)COC)=O)C=C1)C(F)(F)F | C26H25ClF3N5O2S
